US07727988B2
5-(3-Fluoro-pyridin-4-yl)-2,4-dimethoxy-pyrimidine (Prep66)
5-Iodo-2,4-dimethoxy-pyrimidine (commercially available from Matrix, 905 mg, 3.4 mmol) was dissolved in degassed n-PrOH (24 ml) and then 3-fluoropyridine-4-boronic acid (715 mg, 5.1 mmol), Na2CO3 (721 mg, 6.8 mmol), PPh3 (84 mg, 0.34 mmol) and Pd(OAc)2 (40 mg) were added. The suspension was stirred at reflux for 1.5 hours. The solvent was evaporated under vacuum and the crude was partitioned between water and ethyl acetate. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with DCM-MeOH 98-2 and by SCX cartridge washing with MeOH and then collecting the product with MeOH—NH4OH (95-5) to give 750 mg of the title compound (93% yield).

reactant | 5-Iodo-2,4-dimethoxy-pyrimidine | IC=1C(=NC(=NC1)OC)OC | C6H7IN2O2
reactant | 3-fluoropyridine-4-boronic acid | 5.1 mmol, 715 mg | FC=1C=NC=CC1B(O)O | C5H5BFNO2
reactant | Na2CO3 | 6.8 mmol, 721 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 0.34 mmol, 84 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | n-PrOH | 24 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 40 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(3-Fluoro-pyridin-4-yl)-2,4-dimethoxy-pyrimidine | 750 mg, 93% yield | FC=1C=NC=CC1C=1C(=NC(=NC1)OC)OC | C11H10FN3O2
